US08071593B2
13.3 Preparation of 5-methyl-3-{3-[5-(4-methylpiperazin-1-yl)pyrimidin-2-yl]benzyl}-3H-oxazolo[4,5-b]pyridin-2-one
67 mg (0.44 mmol) of 5-methyl-3H-oxazolo[4,5-b]pyridin-2-one and 125 mg (0.44 mmol) of {3-[5-(4-methylpiperazin-1-yl)pyrimidin-2-yl]phenyl}methanol are suspended in 5 ml of DMF with 222 mg (0.67 mmol) of polymer-bound triphenylphosphine (about 3 mmol of triphenylphosphine per g), and the mixture is shaken at room temperature for 30 min. 156 mg (0.67 mmol) of di-tert-butyl azodicarboxylate are added. The reaction mixture is shaken at room temperature for 15 h. The reaction mixture is filtered, the residue is evaporated, and the residue is purified by column chromatography on silica gel, giving 67 mg of “A125”; HPLC: Rt=2.26 min (method B); ESI: 418 (M+H);

reactant | 5-methyl-3H-oxazolo[4,5-b]pyridin-2-one | 0.44 mmol, 67 mg | CC1=CC=C2C(=N1)NC(O2)=O | C7H6N2O2
reactant | {3-[5-(4-methylpiperazin-1-yl)pyrimidin-2-yl]phenyl}methanol | 0.44 mmol, 125 mg | CN1CCN(CC1)C=1C=NC(=NC1)C=1C=C(C=CC1)CO | C16H20N4O
reactant | triphenylphosphine | 0.67 mmol, 222 mg | C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1 | C18H15P
reactant | di-tert-butyl azodicarboxylate | 0.67 mmol, 156 mg | N(=NC(=O)OC(C)(C)C)C(=O)OC(C)(C)C | C10H18N2O4
solvent | DMF | 5 ml | CN(C)C=O | C3H7NO
product | 5-methyl-3-{3-[5-(4-methylpiperazin-1-yl)pyrimidin-2-yl]benzyl}-3H-oxazolo[4,5-b]pyridin-2-one | CC1=CC=C2C(=N1)N(C(O2)=O)CC2=CC(=CC=C2)C2=NC=C(C=N2)N2CCN(CC2)C | C23H24N6O2
